US04916148
A mixture of 1,1,8-trimethyl-2(1H)-naphtho[2,1-b]furanone (1.13 g), N-bromosuccinimide (0.98 g), benzoyl peroxide (0.05 g) and carbon tetrachloride (30 ml) was heated under reflux for 1.5 h and filtered, and the filtrate was evaporated to dryness under reduced pressure, to give 8-bromomethyl-1,1-dimethyl-2[1H]-naphtho[2,1-b]furanone, which was used without further purification.

reactant | 1,1,8-trimethyl-2(1H)-naphtho[2,1-b]furanone | 1.13 g | CC1(C2=C(OC1=O)C=CC1=CC=C(C=C12)C)C | C15H14O2
reactant | N-bromosuccinimide | 0.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.05 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-bromomethyl-1,1-dimethyl-2[1H]-naphtho[2,1-b]furanone | BrCC1=CC=C2C=CC=3OC(C(C3C2=C1)(C)C)=O | C15H13BrO2
